US05221685
(15) Synthesis of 2-(3-nitrobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline (Compound 15)
In toluene (40 ml) were dissolved 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine (2.0 g) and triethylamine (1.0 ml), and a solution of 3-nitrobenzoyl chloride (1.3 g) dissolved in toluene (10 ml) was gradually added thereto under cooling and the mixture was stirred at 103° C. for 3 hours.

reactant | 2-imino-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-1,3-thiazolidine | 2.0 g | N=C1SC(C(N1)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F | C7H2F10N2S
reactant | triethylamine | 1.0 ml | C(C)N(CC)CC | C6H15N
reactant | 3-nitrobenzoyl chloride | 1.3 g | [N+](=O)([O-])C=1C=C(C(=O)Cl)C=CC1 | C7H4ClNO3
solvent | toluene | 40 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-nitrobenzoylamino)-4,4-bis(trifluoromethyl)-5-(tetrafluoroethylidene)-2-thiazoline | [N+](=O)([O-])C=1C=C(C(=O)NC=2SC(C(N2)(C(F)(F)F)C(F)(F)F)=C(C(F)(F)F)F)C=CC1 | C14H5F10N3O3S
